US06727249B2
(1R,2R,5R)-8-Benzyl-1-phenyl-2-triethylsilyloxy-8-azabicyclo[3.2.1]octane
A mixture of (1R,2R,5R)-1-phenyl-2-triethylsilyloxy-8-azabicyclo[3.2.1]octane (Description 51; 100 mg, 0.315 mmol), benzyl bromide (0.5 ml), potassium carbonate (380 mg) and N,N-dimethylformamide (2 ml) was stirred at room temperature for 30 minutes. The reaction mixture was treated with diethyl ether, washed with water, brine, dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel to give the title compound (107 mg, 83%).

reactant | (1R,2R,5R)-1-phenyl-2-triethylsilyloxy-8-azabicyclo[3.2.1]octane | 0.315 mmol, 100 mg | C1(=CC=CC=C1)[C@@]12[C@@H](CC[C@@H](CC1)N2)O[Si](CC)(CC)CC | C19H31NOSi
reactant | benzyl bromide | 0.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 380 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | (1R,2R,5R)-8-Benzyl-1-phenyl-2-triethylsilyloxy-8-azabicyclo[3.2.1]octane | 107 mg, 83% | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1CC2)O[Si](CC)(CC)CC)C2=CC=CC=C2 | C26H37NOSi
